US04001304
N-Hydroxyethyl-N,N-bis(acryloyloxyethyl)amine
To a one liter, four-necked, round bottomed flask equipped with a thermometer, "Therm-O-Watch," air ebullator, oil bath stop a pot lifter, a fifteen plate Oldershaw column fitted with a variable take-off distillation head, 500 ml. pressure-equalizing addition funnel and a mechanical stirrer is added dry triethanolamine (50 g., 0.336 mole), dry ethyl acrylate (300 g., 3 moles), hydroquinone monomethyl ether (MEHQ) (0.38 g., 0.13 wt. % on monomer) and dibutyl tin oxide catalyst (1.92 g., 0.008 mole). The reaction mixture is heated to reflux while gentle air ebullition is maintained. As the reaction proceeds, the vapor temperature falls below 80° C.; distillation is begun and maintained at a rate such that the vapor temperature is kept below 80° C. The pot volume is kept approximately constant by the addition of fresh ethyl acrylate. The ethanol content of the distillate is measured by glc analysis. After 11 hours, the total ethanol distilled reaches 0.67 mole (m = 2.0) and the reaction is terminated. The Oldershaw column and distillation head are replaced with a straight-lead distillation head and the excess ethyl acrylate removed under vacuum during which air ebullition is maintained to prevent polymerization. The maximum pot temperature is 100° C. The product is isolated as a clear, liquid, viscosity, 55 centipoise.

reactant | triethanolamine | 0.336 mole, 50 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | ethyl acrylate | 3 moles, 300 g | C(C=C)(=O)OCC | C5H8O2
reactant | hydroquinone monomethyl ether | 0.38 g | COC1=CC=C(O)C=C1 | C7H8O2
catalyst | dibutyl tin oxide | 0.008 mole, 1.92 g | C(CCC)[Sn](CCCC)=O
product | N-Hydroxyethyl-N,N-bis(acryloyloxyethyl)amine | OCCN(CCOC(C=C)=O)CCOC(C=C)=O | C12H19NO5
